.SUBCKT gf180mcu_fd_sc_mcu9t5v0__fillcap_64 VDD VDD VSS VSS
*.PININFO VDD:P VDD:P VSS:P VSS:G
M_i_17 net_3 net_2 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23 net_4 net_5 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_24 net_7 net_9 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_55 net_6 net_8 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_27 net_17 net_14 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_63 net_16 net_15 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_24_22 net_13 net_11 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_55_93 net_12 net_10 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_20 net_30 net_26 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_59 net_25 net_20 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_24_135 net_23 net_28 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_55_90 net_33 net_18 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_27_139 net_31 net_29 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_63_82 net_32 net_24 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_24_22_30 net_22 net_27 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_17_23_55_93_110 net_19 net_21 VSS VSS nmos_6p0 W=1.320000U L=1.000000U
M_i_19 VDD net_3 net_2 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7 VDD net_4 net_5 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_33 VDD net_7 net_9 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_23 VDD net_6 net_8 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_94 VDD net_17 net_14 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_87 VDD net_16 net_15 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_33_95 VDD net_13 net_11 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_23_23 VDD net_12 net_10 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_95 VDD net_30 net_26 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_188 VDD net_25 net_20 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_33_98 VDD net_23 net_28 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_23_16 VDD net_33 net_18 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_94_91 VDD net_31 net_29 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_87_65 VDD net_32 net_24 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_33_95_109 VDD net_22 net_27 VDD pmos_6p0 W=1.830000U L=1.000000U
M_i_19_7_23_23_99 VDD net_19 net_21 VDD pmos_6p0 W=1.830000U L=1.000000U
.ENDS
